US05182279
Anhydrous chlorobenzene (1500 ml) was placed in a 3 liter 3-necked flask equipped with a condenser and a mechanical stirrer. The apparatus was flushed with nitrogen and about 495 grams of polyphosphoric acid (PPA) was added. The mixture was brought to gentle reflux and 161 g (0.74 mol) of crude (4-fluorophenylthio)- acetaldehyde dimethyl acetal was added during 2.5 hours and the solution was further refluxed for 19 hours. The reaction mixture was allowed to cool to ambient temperature and the organic phase was separated from the PPA. Residual PPA was decomposed with water and the resulting aqueous phase was extracted with toluene (2×150 ml). The combined organic phases was dried over MgSO4 and the solvents evaporated. The residue was fractionated to give 62.4 g (55%) of 5-fluorobenzothiophene which had b.p. 76°-77° C./ 4.5 mm Hg and m.p. 21°-22° C. 1H-NMR (CDCl3)δ7.00 (ddd, 1H), 7.20 (d, 1H, J =5.5Hz), 7.36 (dd,1H), 7.47 (d, 1H, J =5.5 Hz), 7.70 (dd,1H).

reactant | (4-fluorophenylthio)- acetaldehyde dimethyl acetal | 0.74 mol, 161 g | COC(CSC1=CC=C(C=C1)F)OC | C10H13FO2S
solvent | chlorobenzene | 1500 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 5-fluorobenzothiophene | 62.4 g, 55% | FC=1C=CC2=C(C=CS2)C1 | C8H5FS
